US07842694B2
A mixture of methyl 3-hydroxy-5-[(1S)-2-methoxy-(1-methylethyl)oxy]benzoate (240 mg, 0.1 mmol), 5-(azetidin-1-ylcarbonyl)-2,3-dichloropyridine (278 mg, 1.2 mmol) and potassium carbonate (276 mg, 2.0 mmol) in DMA (5 mL) was stirred at 120° C. for 16 hours. The solution was poured into water (30 mL) and acidified with 1N hydrochloric acid before being extracted with ethyl acetate (3×20 mL). The combined organics were washed with brine (20 mL), dried (MgSO4), filtered and the solvent removed in vacuo to give methyl 3-{[5-(azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzoate (as evidenced by LCMS data only m/z 435 (M+H)+) as a brownish oil (550 mg). The crude methyl 3-{[5-(azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzoate (434 mg, 1 mmol) was dissolved in THF (15 mL) and methanol (5 mL) then 1N aqueous Lithium hydroxide solution (2 mL) added followed by the dropwise addition of water until a clear solution obtained. The mixture was stirred was stirred for 4 hours at RT and the organics removed by evaporation. The aqueous solution was filtered, extracted with ethyl acetate (10 mL) and the aqueous layer acidified with 2N hydrochloric acid. The acidified layer was extracted with ethyl acetate (3×30 mL) and the combined organic extracts washed with water (10 mL), brine (10 mL) and concentrated in vacuo to give the desired compound as a pale oil (375 mg). 1H NMR δ (CDCl3): 1.27 (d, 3H), 2.32 (quin, 2H), 3.34 (s, 3H), 3.42-3.55 (m, 2H), 4.13-4.34 (m, 4H), 4.54 (q, 1H), 6.93 (s, 1H), 7.40 (s, 1H), 7.48 (s, 1H), 8.08 (s, 1H), 8.19 (s, 1H), m/z 421 (M+H)+

reactant | methyl 3-hydroxy-5-[(1S)-2-methoxy-(1-methylethyl)oxy]benzoate | 0.1 mmol, 240 mg | OC=1C=C(C(=O)OC)C=C(C1)O[C@H](COC)C | C12H16O5
reactant | 5-(azetidin-1-ylcarbonyl)-2,3-dichloropyridine | 1.2 mmol, 278 mg | N1(CCC1)C(=O)C=1C=C(C(=NC1)Cl)Cl | C9H8Cl2N2O
reactant | potassium carbonate | 2.0 mmol, 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
solvent | water | 30 mL | O | H2O
product | methyl 3-{[5-(azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzoate | N1(CCC1)C(=O)C=1C=C(C(=NC1)OC=1C=C(C(=O)OC)C=C(C1)O[C@H](COC)C)Cl | C21H23ClN2O6
